US07435837B2
Treatment of (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide (0.60 g, 2.09 mmol) in methanol (40 mL) with sulfided platinum on carbon (0.15 g, 5 wt. %) generally according to the procedure described for Example 1 provided 0.60 g (96%) of (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methylamine as a pink solid, hydrochloride salt. mp >240° C.; Anal. calcd. for C15H13F2NOHCl 0.5H2O: C, 58.74; H, 4.93; N, 4.57. Found: C, 58.6; H, 4.56; N, 4.33.

reactant | (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl azide | 2.09 mmol, 0.60 g | FC1=C(C=C(C2=C1CC(O2)CN=[N+]=[N-])C2=CC=CC=C2)F | C15H11F2N3O
solvent | methanol | 40 mL | CO | CH4O
catalyst | sulfided platinum on carbon | 0.15 g | [Pt] | Pt
product | (±)-(4,5-difluoro-7-phenyl-2,3-dihydro-1-benzofuran-2-yl)methylamine | 0.60 g, 96% | FC1=C(C=C(C2=C1CC(O2)CN)C2=CC=CC=C2)F | C15H13F2NO
